US07214681B2
N-Ethyl-4-[2-(tetrahydropyran-4-yl)-1-(thiazol-2-ylcarbamoyl)ethyl]benzamide
4-[2-(Tetrahydropyran-4-yl)-1-(thiazol-2-ylcarbamoyl)ethyl]benzoic acid (Preparation 62, 150 mg, 420 μmol) was condensed with EtNH2.HCl in the presence of DIPEA, utilising the general procedure described in EXAMPLE 65, to give the title compound: RTA=2.97 min; m/z (ES+)=388.3 [M+H]+.

reactant | 4-[2-(Tetrahydropyran-4-yl)-1-(thiazol-2-ylcarbamoyl)ethyl]benzoic acid | 420 μmol, 150 mg | O1CCC(CC1)CC(C(NC=1SC=CN1)=O)C1=CC=C(C(=O)O)C=C1 | C18H20N2O4S
reactant | EtNH2.HCl | C(C)N.Cl
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
product | N-Ethyl-4-[2-(tetrahydropyran-4-yl)-1-(thiazol-2-ylcarbamoyl)ethyl]benzamide | C(C)NC(C1=CC=C(C=C1)C(CC1CCOCC1)C(NC=1SC=CN1)=O)=O | C20H25N3O3S
